US06953806B2
A mixture of 702 mg (1.63 mmol) [trans-(2-(4-{[ethyl-(2-hydroxy-ethyl)-amino]-methyl}-cyclohexyl)-ethyl]-methyl-carbamic acid 4-trifluoromethyl-phenyl ester, 256.6 mg (1.8 mmol) of phthalic anhydride and 335 mg (3.54 mmol) of Hydrogen peroxide•Urea adduct in 7 ml of CH2Cl2, was stirred for two days at RT. Additional 100 mg (1.06 mmol) of Hydrogen peroxide•Urea adduct and 50 mg (0.34 mmol) of phthalic anhydride were added to the reaction mixture. After another 3 h at RT, 10 ml of aqueous saturated NaHCO3 were added. After stirring for 10 min at RT, the reaction-mixture was taken up in ether/water. The ether phase was dried and evaporated under reduced pressure. The residue was chromatographed on silica gel with a 9:1 v/v mixture of methylenchloide/methanol as eluent giving 449 mg (62%) of pure rac-trans-ethyl(2-hydroxyethyl)({4-[2-(methyl{[4-(trifluoromethyl)phenoxy]carbonyl}amino)ethyl]cyclohexyl}methyl)ammoniumolate, MS: 447 (MH+).

reactant | trans-(2-(4-{[ethyl-(2-hydroxy-ethyl)-amino]-methyl}-cyclohexyl)-ethyl]-methyl-carbamic acid 4-trifluoromethyl-phenyl ester | FC(C1=CC=C(C=C1)OC(N(C)CC[C@@H]1CC[C@H](CC1)CN(CCO)CC)=O)(F)F | C22H33F3N2O3
reactant | phthalic anhydride | 1.8 mmol, 256.6 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | Hydrogen peroxide•Urea | 3.54 mmol, 335 mg | OO.NC(=O)N
reactant | Hydrogen peroxide•Urea | 1.06 mmol, 100 mg | OO.NC(=O)N
reactant | phthalic anhydride | 0.34 mmol, 50 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
solvent | ether water | CCOCC.O
product | rac-trans-ethyl(2-hydroxyethyl)({4-[2-(methyl{[4-(trifluoromethyl)phenoxy]carbonyl}amino)ethyl]cyclohexyl}methyl)ammoniumolate | 449 mg, 62% | C(C)[N+]([O-])(C[C@@H]1CC[C@H](CC1)CCN(C(=O)OC1=CC=C(C=C1)C(F)(F)F)C)CCO | C22H33F3N2O4
